US20010041676A1
Prednisolone glucoside was synthesized from acetobromoglucose and prednisolone using silver silicate as the reagent for the conjugation.

reactant | acetobromoglucose | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | prednisolone | C[C@]12C[C@@H]([C@H]3[C@H]([C@@H]1CC[C@@]2(C(=O)CO)O)CCC4=CC(=O)C=C[C@]34C)O | C21H28O5
catalyst | silver silicate | [Si]([O-])([O-])([O-])[O-].[Ag+].[Ag+].[Ag+].[Ag+]
product | Prednisolone glucoside | C[C@]12C[C@@H]([C@H]3[C@H]([C@@H]1CC[C@@]2(C(=O)CO[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O)CCC5=CC(=O)C=C[C@]35C)O | C27H38O10
